*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X6S(-55to105[deg])/1.00e+00[uF]/10[V]
* Murata P/N :GRM155C81A105KA12
* Property : C = 1.00e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155C81A105KA12 Port1 Port2
C01 Port1 N01 5.56e-07
R01 Port1 N01 5.00e+07
L02 N01 N02 1.54e-10
R03 N02 N03 1.06e-02
C04 N03 N04 1.77e-05
R04 N03 N04 1.23e+02
C05 N04 N05 1.65e-05
R05 N04 N05 1.72e+01
C06 N05 N06 1.47e-05
R06 N05 N06 2.41e+00
C07 N06 N07 1.49e-05
R07 N06 N07 3.02e-01
C08 N07 N08 1.15e-05
R08 N07 N08 5.24e-02
C09 N08 N09 1.38e-05
R09 N08 N09 9.18e-03
L10 N09 N10 2.05e-11
R10 N09 N10 2.37e-01
L11 N10 N11 2.19e-11
R11 N10 N11 6.72e-02
L12 N11 N12 1.20e-10
R12 N11 N12 3.80e-02
C13 N12 N13 4.54e-06
L13 N12 N13 1.14e-11
R13 N12 N13 3.85e-03
C14 N13 N14 8.42e-07
L14 N13 N14 3.21e-11
R14 N13 N14 5.60e-03
C15 N14 Port2 7.39e-12
L15 N14 Port2 2.47e-11
R15 N14 Port2 4.10e+00
.ENDS GRM155C81A105KA12
